data/oMe_Silver.jsonl
{"reaction_id": "NR-123_1-CC_2-c1nccc(c1)_3-c1ccccc1_4-c1ccccc1C","level": "medium","name": "Knorr Pyrrole Synthesis","reactants_smiles": ["C(N)(c1nccc(c1))C(=O)CC","C(c1ccccc1)(=O)CC(=O)Oc1ccccc1C"],"products_smiles": ["c1(C(C(=O)Oc1ccccc1C)=C(c1ccccc1)Nc1c1nccc(c1))CC"],"conditions": "Acid","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(=O)(CC)C(c1nccc(c1))N=C(c1ccccc1)CC(=O)OCC","step_weight": 0,"rationale": "Acid activates the carbonyl of the 1,3-dicarbonyl, making it more electrophilic, enabling nucleophilic attack by the amino group of the α-amino ketone to form an imine intermediate."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(Oc1ccccc1C)=O)=C(c1ccccc1)NC(c1nccc(c1))C(=O)CC","step_weight": 0,"rationale": "Proton transfer stabilizes the imine and enol forms, aligning the system for intramolecular cyclization by increasing nucleophilicity of the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(O)(CC)C(c1nccc(c1))[NH+]=C(c1ccccc1)C1(C(=O)Oc1ccccc1C)","step_weight": 0,"rationale": "The enol oxygen attacks the iminium carbon intramolecularly; acid catalysis increases electrophilicity, and the proximity effect favors five-membered ring formation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(O)(CC)C(c1nccc(c1))NC(c1ccccc1)=C1(C(=O)Oc1ccccc1C)","step_weight": 0,"rationale": "Proton transfer restores neutrality to the nitrogen, stabilizing the cyclic intermediate and preparing for further protonation steps."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1([OH2+])(CC)C(c1nccc(c1))NC(c1ccccc1)=C1(C(=O)Oc1ccccc1C)","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group (water), facilitated by the acidic medium."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1(c(C(=O)Oc1ccccc1C)c(c1ccccc1)[nH+]C1c1nccc(c1))CC","step_weight": 0,"rationale": "Elimination of water occurs to form the conjugated iminium system; aromatic stabilization drives the dehydration step."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(C(=O)Oc1ccccc1C)=C(c1ccccc1)Nc1c1nccc(c1))CC","step_weight": 0,"rationale": "Final deprotonation restores aromaticity of the pyrrole ring, yielding the thermodynamically stable aromatic product."}],"description": "Under acidic conditions, the Knorr pyrrole synthesis proceeds via condensation of an α-amino ketone with a 1,3-dicarbonyl compound, followed by cyclization and dehydration. Acid catalysis enhances electrophilicity, facilitates proton transfers, and promotes ring closure to yield the aromatic pyrrole."}
{"reaction_id": "NR-208_1-C#N_2-OC_3-CC#N_4-c1ccc(C(F)(F)F)cc1","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C#N)=C(OC)C(CC#N)(c1ccc(C(F)(F)F)cc1)OC=N"],"products_smiles": ["C(=O)NC(C#N)C(OC)=C(CC#N)(c1ccc(C(F)(F)F)cc1)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C#N)C(OC)=C(CC#N)(c1ccc(C(F)(F)F)cc1)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
